US07842688B2
d) 2-Hydroxymethyl-4-methylphenol
A solution of 4.80 g of 4-fluoro-2-hydroxybenzoic acid in 100 ml of tetrahydrofuran is added dropwise at 0° C. to the suspension of 5.29 g of lithium aluminium hydride in 150 ml of tetrahydrofuran and stirred over 2 hours. The reaction mixture is admixed dropwise successively with 6 ml of water, 6 ml of 15% NaOH and 24 ml of water, and stirred over 1 hour. The mixture is filtered and the filtrate is concentrated by evaporation. The crude title compound is obtained as a red-orange oil from the residue. Rf=0.20 (1:1 EtOAc-heptane); Rt=2.47.

reactant | 4-fluoro-2-hydroxybenzoic acid | 4.80 g | FC1=CC(=C(C(=O)O)C=C1)O | C7H5FO3
reactant | lithium aluminium hydride | 5.29 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | water | 6 ml | O | H2O
reactant | NaOH | 6 ml | [OH-].[Na+]
reactant | water | 24 ml | O | H2O
reactant | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-Hydroxymethyl-4-methylphenol | OCC1=C(C=CC(=C1)C)O | C8H10O2
